US09446130B2
To a solution of the 1-tert-butyl 4-ethyl 2-oxopiperidine-1,4-dicarboxylate (20 g, 74.45 mmol) in DCM (93 mL) was add 4N hydrogen chloride in dioxane (30 mL). The reaction was stirred at room temperature for 1 hour and then the solvent was removed under reduced pressure. The resulting residue was dissolved in DCM and water, then adjusted to PH=8 with saturated aqueous Na2CO3 solution. The mixture was extracted with DCM and the combined organic layer was washed with water, brine and dried over anhydrous Na2SO4. The organic layer was concentrated in vacuo to afford ethyl 2-oxopiperidine-4-carboxylate (12 g, yield 94.5%).

reactant | 1-tert-butyl 4-ethyl 2-oxopiperidine-1,4-dicarboxylate | 74.45 mmol, 20 g | O=C1N(CCC(C1)C(=O)OCC)C(=O)OC(C)(C)C | C13H21NO5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | DCM | 93 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | ethyl 2-oxopiperidine-4-carboxylate | 12 g, yield 94.5% | O=C1NCCC(C1)C(=O)OCC | C8H13NO3
